US06503907B2
In analogy to example 3.1, 1-(4-Fluoro-phenyl)-1H-indol-5-ol and 1,4-dibromobutene were converted to yield 5-(4-Bromo-but-2-enyloxy)-1-(4-fluoro-phenyl)-1H-indole as colorless liquid, MS: 359 (M, 1Br).

reactant | 1-(4-Fluoro-phenyl)-1H-indol-5-ol | FC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)O | C14H10FNO
reactant | 1,4-dibromobutene | BrC=CCCBr | C4H6Br2
product | 5-(4-Bromo-but-2-enyloxy)-1-(4-fluoro-phenyl)-1H-indole | BrCC=CCOC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)F | C18H15BrFNO
